US07396856B2
2-(4-Bromo-2,5-dimethoxy phenyl)-ethanol
(2,5-Dirnethoxy-phenyl)-acetic acid (3.00 g, 15.29 mmol) was dissolved in 30 ml of acetic acid and cooled to 0° C. To this solution was added bromine (2.44 g, 15.33 mmol), the reaction mixture was stirred overnight at room temperature and concentrated under reduced pressure, the solid residue was washed with cold hexane and dried overnight. The residue was dissolved in THF and cooled to 0° C. LAH (20 ml of 1.0 M in THF) was added slowly and then the reaction mixture was stirred at 0° C. for 2 h. Excess LAH was destroyed by careful addition of ethyl acetate and an aqueous solution of 0.10 M hydrogen chloride. The organic layer was separated, dried (MgSO4) and concentrated under reduced pressure to give an oil (3.1 g), which solidifies slowly. MS (m/z) 278 (M+NH4)+. 1HNMR(CDCl3): δ ppm 2.86 (m, 2H), 378-3.84 (2s+m, 8H), 6.77 (s, 1H), 7.04 (s, 1H).

reactant | (2,5-Dirnethoxy-phenyl)-acetic acid | 15.29 mmol, 3.00 g | COC1=C(C=C(C=C1)OC)CC(=O)O | C10H12O4
reactant | bromine | 15.33 mmol, 2.44 g | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-(4-Bromo-2,5-dimethoxy phenyl)-ethanol | 3.1 g | BrC1=CC(=C(C=C1OC)CCO)OC | C10H13BrO3
